US06235731B1
3) Synthesis of 1-[N-(tert-butoxycarbonyl)aminoacetyl]-4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine
To a suspension of 2.8 g (15.98 mmol.) of N-tert-butoxycarbonyl glycine and 3.67 g (23.96 mmol.) of 1-hydroxybenzotriazole monohydrate was added, at room temperature, 4.6 g (24.0 mmol.) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride. The mixture was stirred for one hour. To the reaction system, was added an acetonitrile solution (20 ml) of 5.65 (16.99 mmol.) of 1-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine dihydrochloride, 5.17 g (33.96 mmol.) of 1,8-diazabicyclo[5.4.0]unde-7-cene (DBU) and 2.3 ml (16.5 mmol.) of triethylamine. The mixture was stirred for 2 hours. The solvent was distilled off under reduced pressure. To the residue was added water, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The crude product thus-obtained was purified by means of a column chromatography (methanol/ethyl acetate 10-20%). The solvent was distilled off under reduced pressure to afford the object compound as a pale yellow oily product. The yield was 5.64 g (94%).

reactant | N-tert-butoxycarbonyl glycine | 15.98 mmol, 2.8 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-hydroxybenzotriazole monohydrate | 23.96 mmol, 3.67 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 24.0 mmol, 4.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine dihydrochloride | 16.99 mmol | Cl.Cl.C1(=CC=CC=C1)CCCN1CCNCCC1
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 16.5 mmol, 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[N-(tert-butoxycarbonyl)aminoacetyl]-4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine | C(C)(C)(C)OC(=O)NCC(=O)N1CCN(CCC1)CCCC1=CC=CC=C1 | C21H33N3O3
